US07618979B2
Step 2 dimethyl 2-[1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-yl]malonate
To a suspension of 1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-ol (0.54 g, 2.1 mmol) in THF (10 mL) at −78° C. were added 1M NaHMDS in THF (2.35 mL, 2.4 mmol) and diphenyl chlorophosphate (0.53 mL, 2.6 mmol). After a period of 30 min. dimethyl malonate (0.73 mL, 6.4 mmol) and 1M NaHMDS in THF (6.8 mL, 6.8 mmol) were added. The reaction mixture was brought to 0° C. and then to room temperature. The mixture was then partitioned between ETOAc and NH4Cl. The organic phase was dried over MgSO4, filtered and evaporated. The title compound was purified by flash chromatography.

reactant | 1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-ol | 2.1 mmol, 0.54 g | CSC1=NC=CC2=C1C=C1C(CCN21)O | C11H12N2OS
reactant | NaHMDS | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | diphenyl chlorophosphate | 2.6 mmol, 0.53 mL | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | dimethyl malonate | 6.4 mmol, 0.73 mL | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | NaHMDS | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 6.8 mmol, 6.8 mL | C1CCOC1 | C4H8O
solvent | THF | 2.4 mmol, 2.35 mL | C1CCOC1 | C4H8O
product | dimethyl 2-[1-(methylthio)-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizin-8-yl]malonate | CSC1=NC=CC2=C1C=C1C(CCN21)C(C(=O)OC)C(=O)OC | C16H18N2O4S
